US08193228B2
1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol
1-bromo-4,4-dimethylpentan-2-one (500 mg, 2.6 mmol) was added to an ambient temperature solution of 2,2-difluoro-3-[4-(5-fluoropyridin-2-yl)phenyl]-3-hydroxybutanimidamide (365 mg, 1.2 mmol) and sodium acetate (290 mg, 3.5 mmol) in 1,4-dioxane (20 mL). After stirring at reflux for 1 h, volatiles were removed in vacuo. The residue was partitioned between ethyl acetate and 1 N aqueous sodium hydroxide. The organic phase was washed with brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-30% ethyl acetate/hexane afforded the title compound. 1H NMR (500 MHz, CDCl3) δ 8.50 (d, J=3.0 Hz, 1H), 7.83 (d, J=8.4 Hz, 2H), 7.67 (dd, J=4.3, 8.8 Hz, 1H), 7.58 (d, J=8.5 Hz, 2H), 7.45 (dt, J=2.8, 8.4, 1H) 6.69 (s, 1H), 2.39 (s, 2H), 1.77 (s, 3H), 0.84 (s, 9H).

reactant | 1-bromo-4,4-dimethylpentan-2-one | 2.6 mmol, 500 mg | BrCC(CC(C)(C)C)=O | C7H13BrO
reactant | 2,2-difluoro-3-[4-(5-fluoropyridin-2-yl)phenyl]-3-hydroxybutanimidamide | 1.2 mmol, 365 mg | FC(C(N)=N)(C(C)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C15H14F3N3O
reactant | sodium acetate | 3.5 mmol, 290 mg | C(C)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol | CC(CC=1N=C(NC1)C(C(C)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(F)F)(C)C | C22H24F3N3O
